Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
bee venom (honey bee)
 
Attending: ___.
 
Chief Complaint:
syncopal event
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
Ms. ___ is and ___ year old female who presents to the ED after 
a syncopal episode. The patient was going down an escalator at 
the mall. The next thing she remembers is waking up on a 
stretcher with EMS around her. She does not remember feeling 
dizzy etc prior to the event. She was taken to an OSH where a CT 
head revealed a 3mm temporoparietal SDH and was transferred to 
___. The patient also has facial lacerations and a non 
displaced nasal fracture. She denies any headache, double 
vision, blurry vision, weakness, numbness upon examination. Of 
note the patient takes ASA 81 mg daily but denies any other
anticoagulation. 

 
Past Medical History:
BELL'S PALSY 
CAROTID STENOSIS Right ICA ___ stenosis.  Left ICA 60-69%
stenosis
HYPERTENSION 
HYPOTHYROIDISM 
PERIPHERAL NEUROPATHY 
SLEEP APNEA 
ULCERATIVE COLITIS 
VERTIGO 

 
Social History:
___
Family History:
father died age ___ - CAD. CHF.  
mother- died age ___- HTN, CAD.  
brother- died age ___ HTN renal failure  
brother died age ___, HTN, lymphoma  

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O: T:98.8  BP: 178/86 R:20  HR86 O2Sats 99% RA 
Gen: WD/WN, comfortable, NAD.
HEENT: Facial lacerations. Pupils:PERRL    EOMs intact
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.
Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, 4 to 3 mm 
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements, 
tremors. Strength full power ___ throughout. No pronator drift.
Sensation: Intact to light touch bilaterally.

PHYSICAL EXAMINATION ON DISCHARGE:
Vitals- 98.1 150/53 62 16 100% RA  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, extensive facial bruising, sutures in 
upper lip and left eyebrow  
Neck- supple, JVP not elevated, no LAD, no carotid bruit  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no edema  
Neuro- CNs2-12 intact, motor function grossly normal, able to 
ambulate to bathroom on own  

 
Pertinent Results:
ADMISSION LABS:
==============
___ 05:15PM BLOOD WBC-11.2*# RBC-4.28 Hgb-13.2 Hct-40.0 
MCV-94 MCH-30.8 MCHC-32.9 RDW-12.5 Plt ___
___ 05:15PM BLOOD Glucose-106* UreaN-17 Creat-0.6 Na-133 
K-3.8 Cl-96 HCO3-25 AnGap-16

DISCHARGE LABS:
===============
___ 08:15AM BLOOD WBC-6.8 RBC-3.81* Hgb-12.1 Hct-35.6* 
MCV-93 MCH-31.8 MCHC-34.1 RDW-12.6 Plt ___
___ 08:15AM BLOOD Glucose-98 UreaN-15 Creat-0.5 Na-133 
K-3.9 Cl-94* HCO3-29 AnGap-14

URINALYSIS:
=============
___ 06:53PM URINE Color-Straw Appear-Clear Sp ___
___ 06:53PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 06:53PM URINE RBC-4* WBC-1 Bacteri-FEW Yeast-NONE Epi-0

IMAGING:
==========
# Portable TTE (Complete) Done ___ 
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
unusually small. Due to suboptimal technical quality, a focal 
wall motion abnormality cannot be fully excluded. Left 
ventricular systolic function is hyperdynamic (EF = 75%). There 
is a mild resting left ventricular outflow tract obstruction. 
The gradient increased with the Valsalva manuever. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets are mildly thickened (?#). There is no 
aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is mild 
posterior leaflet mitral valve prolapse. There is mild systolic 
anterior motion of the mitral valve leaflets. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: small cavity hyperdynamic left ventricle with mild 
resting left ventricular tract outflow obstruction that 
increases during Valsalva maneuver  

# CAROTID SERIES COMPLETE Study Date of ___  
Impression: Right ICA with <40% stenosis. 
            Left ICA with 40-59% stenosis. 

# CT HEAD W/O CONTRAST Study Date of ___  
IMPRESSION:  
Stable appearance since yesterday of small left temporal 
subdural hematoma. 

# EEG Study Date of ___ 
IMPRESSION: This is a normal continuous monitoring study. There 
are no focal features or electrographic seizures. 

 
Brief Hospital Course:
___ y/o F with PMH HTN, HL, and UC who presented ___ after a 
syncopal episode c/b subdural hematoma, initially on the 
neurosurgery service, transferred to medicine for syncopal 
evaluation.

ACTIVE ISSUES:
===============
#. Syncope: The patient has a h/o vasovagal syncope, however 
this particular episode was not preceded by her normal aura and 
the extent of her injuries raises concern for cardiac etiology. 
Pt was monitored on telemetry, with no arrhythmia noted. She 
underwent TTE which showed mild outflow tract obstruction, 
though this was thought to be unlikely as the causative factor 
as pt was not undergoing any Valsalva maneuvers at the time of 
syncope. However, given this finding, cardiology was consulted 
and felt that there was no indication for beta blocker, 
especially as pt has not tolerated beta blocker in the past due 
to bradycardia. Rather, it is crucial for pt to stay hydrated. 
They recommended discontinuing her HCTZ-triameterene combination 
and instead increasing her lisinopril for better blood pressure 
control. She was also discharged with ___ of Hearts monitor 
for further evaluation. 
 
# subdural hematoma: Pt presented with small subdural hematoma, 
for which she was initially on the neurosurgery service. Repeat 
imaging showed this finding to be stable. Per neurosurgery, she 
was restarted on her aspirin prior to discharge. She will follow 
up with neurosurgery in 4 weeks with repeat imaging at that 
time. 

# superficial facial lacerations: Pt sustained several 
lacerations to her face, requiring sutures to her lip and 
eyebrow. These sutures should be removed ___ days after 
placement, to be done at her PCP ___.

# nasal fracture: Per imaging at OSH, pt has a non-displaced 
nasal fracture. She can follow up as needed with plastic surgery 
as an outpatient.

CHRONIC ISSUES:
================
# HTN: Per cardiology recommendations and importance of staying 
hydrated, pt was taken off her HCTZ-triameterene combination and 
her lisinopril was increased from 10 to 20 mg daily.
 
# hypothyroidism: continued levothyroxine  

# HLD: continued simvastatin  

# hair loss: continued finasteride  

TRANSITIONAL ISSUES:
===================
Pt will need repeat head imaging in 4 weeks.

Sutures should be removed between ___.

Pt should have creatinine and potassium checked as an outpatient 
given increased dose of lisinopril.

___ of Hearts monitor will be followed by PCP and cardiologist.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO BID 
2. Vitamin D 1000 UNIT PO DAILY 
3. biotin unknown mg oral per routine 
4. Finasteride 1 mg PO DAILY 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. Lisinopril 10 mg PO DAILY 
7. Dipentum (olsalazine) 250 mg oral TID PRN 
8. Simvastatin 20 mg PO DAILY 
9. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Finasteride 1 mg PO DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. Simvastatin 20 mg PO DAILY 
6. Acetaminophen 325-650 mg PO Q6H:PRN pain 
7. Ascorbic Acid ___ mg PO BID 
8. biotin 0 mg ORAL PER ROUTINE 
9. Dipentum (olsalazine) 250 mg oral TID PRN 
10. Vitamin D 1000 UNIT PO DAILY 
11. Outpatient Physical Therapy
Outpatient physical therapy
ICD 9: 432.1
Evaluate and treat

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Subdural Hematoma
nasal fracture
syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted after a fainting event, and 
were found to have a small head bleed as well as a nasal 
fracture. You were initially on the surgery service, and your 
bleed appeared stable. You were transferred to the medicine 
service and were evaluated by cardiology. They recommended 
making several changes to your medications, including stopping 
triamterene-hydrochlorothiazide and increasing your lisinopril. 
It is important that you stay hydrated and this will be most 
important for preventing further fainting episodes. We are 
discharging you with a heart monitor as well. Please follow up 
with your primary care doctor, to have sutures removed in ___ 
days. You will also need follow up with the neurosurgeons in 4 
weeks.

Nonsurgical Brain Hemorrhage
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Advil, or Ibuprofen 
etc. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING
•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___